US09212190B2
To a solution of 2-[(3R)-12-[(4-[[(tert-butoxy)carbonyl]amino]-4-ethylcyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetic acid (100 mg, 0.21 mmol, 1.00 equiv) in 5 mL of distilled DMF was added HOBt (42.6 mg), EDCI (60 mg), 4-dimethylaminopyridine (38.2 mg) and NH4Cl (56 mg, 1.05 mmol, 4.98 equiv) successively and the resulting solution was stirred for 14 hr at 25° C. under nitrogen. The reaction was then quenched with water and extracted with 3×50 mL of ethyl acetate. The organic layers were combined, washed with brine, dried over sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (2:1) to give tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]-1-ethylcyclohexyl)carbamate (60 mg, 60%) as colorless oil. MS (ES): m/z 476 [M+H]+.

reactant | 2-[(3R)-12-[(4-[[(tert-butoxy)carbonyl]amino]-4-ethylcyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetic acid | 0.21 mmol, 100 mg, 1.00 equiv | C(C)(C)(C)OC(=O)NC1(CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CC(=O)O)CC | C24H33N3O5S
reactant | HOBt | 42.6 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 60 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | NH4Cl | 1.05 mmol, 56 mg, 4.98 equiv | [NH4+].[Cl-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 38.2 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]-1-ethylcyclohexyl)carbamate | 60 mg, 60% | C(N)(=O)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)(CC)NC(OC(C)(C)C)=O | C24H34N4O4S
